### PR TITLE
[IK]: zeta_pow_two & zeta_alt complete + auxiliary lemmas, closes #1274 & #1275

### LINKED ISSUE #1274: [IK]: Prove `zeta_pow_two`
## Description

Prove `zeta_pow_two`

## Blueprint

See https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/IK-chapter.html#zeta_pow_two

## Zulip

TBA

### PR DESCRIPTION
**Pull request by prestontranbarger**
closes #1274

### CODE REVIEW

**Comment by prestontranbarger** [comment]
closes #1275

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 1]
```diff
@@ -1,5 +1,7 @@
 import Architect
 import Mathlib.NumberTheory.LSeries.Dirichlet
+import Mathlib.NumberTheory.LSeries.Nonvanishing
+import Mathlib.NumberTheory.EulerProduct.DirichletLSeries
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Does `Nonvanishing` already import `EulerProduct`?

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 2]
```diff
@@ -720,10 +722,191 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+    $$2^{\omega(n)}=\prod_{p|n}2.$$
+    Likewise, $\sigma_0(n)$ is the number of divisors of $n$. We can write this as
+    $$\prod_{p|n}(1+v_p(n))=\sigma_0(n)$$
+    where $v_p(n)$ denotes the $p$-adic valuation of $n$. For $p|n$ we have that $2\leq 1+v_p(n)$.
+    Thus the result immediately follows.
+  -/)]
+lemma two_pow_omega_le_sigma_zero {n : ℕ} (hn : n ≠ 0) :
+    2 ^ (ω n) ≤ σ 0 n := by
+  have h_prime_factors : ω n = (Nat.primeFactors n).card := rfl;
+  rw [h_prime_factors, ArithmeticFunction.sigma_zero_apply, Nat.card_divisors hn, ← Finset.prod_const]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: can `h_prime_factors` be wrapped into the `rw`? The worst case is something like `rw [(by rfl : ω n = (Nat.primeFactors n).card),...]` but maybe it's possible to do with less?

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 3]
```diff
@@ -720,10 +722,191 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+    The $L$-series with coefficients given by $2^{\omega(n)}$ converges on the region $1<\Re(s)$.
+  -/)
+  (proof := /--
+    This follows by comparison test against the $L$-series with coefficients given by $\sigma_0(n)$.
+  -/)]
+lemma LSeriesSummable_two_pow_omega {s : ℂ} (hs : 1 < s.re) :
+    LSeriesSummable (fun n ↦ 2 ^ (ω n)) s := by
+  have h_sigma0_summable : LSeriesSummable (fun n => (σ 0 n : ℂ)) s := by
+    convert LSeries_d_summable 2 hs using 1;
+    exact funext fun n => by rw [d_two] ; rfl;
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: stray space

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 4]
```diff
@@ -720,10 +722,191 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+  rw [LSeriesSummable, ← summable_norm_iff] at *;
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: You shouldn't be rewriting the definition of summability. There should be API for the comparison test on Lseries. (If it doesn't exist, we should add it)

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 5]
```diff
@@ -720,10 +722,191 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+  (statement := /--
+    We have that $n\mapsto 2^{\omega(n)}/n^{-s}$ is a multiplicative function.
+  -/)
+  (proof := /--
+    This immediately follows from the fact that $\omega(mn)=\omega(m)+\omega(n)$
+    for $m$ and $n$ coprime. This fact should be obvious from the definition of $\omega$.
+  -/)]
+lemma two_pow_omega_LSeries.term_IsMultiplicative (s : ℂ) {m n : ℕ} (mCn : m.Coprime n) :
+    LSeries.term (fun n ↦ 2 ^ (ω n)) s (m * n) =
+  LSeries.term (fun n ↦ 2 ^ (ω n)) s m * LSeries.term (fun n ↦ 2 ^ (ω n)) s n := by
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Can this just be stated directly in terms of `IsMultiplicative`? Also, I think the naming convention is `two_pow_omega_LSeries.term_isMultiplicative`...?

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 6]
```diff
@@ -720,10 +722,191 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+  -/)
+  (proof := /--
+    Note that $\omega(p^0)=0$ and $\omega(p^k)=1$ whenever $0<k$. Thus,
+    $$\sum_{0\leq k}2^{\omega(p^k)}p^{-ks}=1+2p^{-s}+2p^{-2s}+\ldots.$$
+    Now apply a geometric sum to the non-constant terms and simplify. We have the necessary
+    convergence as $1<\Re(s)$.
+  -/)]
+lemma two_pow_omega_tsum_prime_pow {s : ℂ} (hs : 1 < s.re)
+    (p : Nat.Primes) :
+    ∑' e, LSeries.term (fun n ↦ 2 ^ (ω n)) s (p ^ e) =
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Should we have API for an `LSeries` summed over prime powers? It comes up in a variety of arguments. (Maybe ask on Zulip?)

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 7]
```diff
@@ -720,10 +722,191 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+@[blueprint
+  "Complex.one_add_prime_cpow_ne_zero"
+  (title := "Complex.one-add-prime-cpow-ne-zero")
+  (statement := /--
+    For $1<\Re(s)$ and $p$ prime, we have that $1+p^{-s}\neq 0$.
+  -/)
+  (proof := /--
+    Suppose for contradiction $1+p^{-s}=0$, then $|p^{-s}|=1$. However, this can not happen per
+    \begin{verbatim}
+      Complex.norm_prime_cpow_le_one_half
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:926]: Mention also that this mimics `Complex.one_sub_prime_cpow_ne_zerl`

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 8]
```diff
@@ -720,10 +722,191 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+    ∧ (∀ {m n : ℕ}, m.Coprime n → LSeries.term (fun n ↦ (2 ^ ω n)) s (m * n) =
+      LSeries.term (fun n ↦ (2 ^ ω n)) s m *
+      LSeries.term (fun n ↦ (2 ^ ω n)) s n)
+    ∧ LSeries.term (fun n ↦ (2 ^ ω n)) s 1 = 1 := by
+    refine ⟨LSeriesSummable_two_pow_omega hs, ?_, ?_⟩;
+    · intro m n mCn; exact two_pow_omega_LSeries.term_IsMultiplicative s mCn
+    · simp only [ne_eq, one_ne_zero, not_false_eq_true, LSeries.term_of_ne_zero, cast_one, pow_zero,
+        Complex.one_cpow, div_one, cardDistinctFactors_one]
+  have := @EulerProduct.eulerProduct_hasProd;
+  convert HasProd.tprod_eq ( this h_euler_product.2.2 h_euler_product.2.1 _ _ ) |> Eq.symm using 1
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: can be shortened; no need to package and unpackage

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 9]
```diff
@@ -720,10 +722,191 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+
+@[blueprint
+  "two_pow_omega_LSeries_eulerProduct_hasProd"
+  (title := "two-pow-omega-LSeries-eulerProduct-hasProd")
+  (statement := /--
+    For $1<\Re(s)$ we have that
+    $$\sum_{1\leq n}2^{\omega(n)}n^{-s}=\prod_p\frac{1+p^{-s}}{1-p^{-s}}.$$
+  -/)
+  (proof := /--
+    Immediately follows from two-pow-omega-LSeries.term-IsMultiplicative and two-pow-omega-tsum-prime-pow.
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Name which API it matches

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 10]
```diff
@@ -734,12 +917,167 @@ where omega is the number of distinct prime factors. -/
   \end{verbatim}
   -/)
   (proof := /--
-  Follows from previous arguments.
+    Note that
+    $$\zeta(s)^2=\prod_p\frac{1}{(1-p^{-s})^2}.$$
+    Similarly
+    $$\zeta(2s)=\prod_p\frac{1}{(1-p^{-2s})}.$$
+    Applying two-pow-omega-LSeries-eulerProduct-tprod and two-pow-omega-LSeries-eulerProduct-hasProd we have
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]:
```suggestion
    Applying Theorems \ref{two-pow-omega-LSeries-eulerProduct-tprod} and \ref{two-pow-omega-LSeries-eulerProduct-hasProd} we have
```

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 11]
```diff
@@ -734,12 +917,167 @@ where omega is the number of distinct prime factors. -/
...
+    This follows by comparison test against the Riemann zeta function.
+  -/)]
+lemma LSeriesSummable_moebius_sq {s : ℂ} (hs : 1 < s.re) :
+    LSeriesSummable (fun n ↦ (μ n) ^ 2) s := by
+  have zetaSummable : LSeriesSummable 1 s := LSeriesSummable_one_iff.mpr hs
+  rw [LSeriesSummable, ← summable_norm_iff] at *;
+  apply Summable.of_nonneg_of_le (fun n => norm_nonneg _) (fun n => _) zetaSummable
+  intro n
+  simp only [LSeries.term]
+  by_cases hn : n = 0
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Again, use API for comparison test

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 12]
```diff
@@ -734,12 +917,167 @@ where omega is the number of distinct prime factors. -/
...
+  (title := "moebius-sq-LSeries.term-IsMultiplicative")
+  (statement := /--
+    We have that $n\mapsto \mu^2(n)/n^{-s}$ is a multiplicative function.
+  -/)
+  (proof := /--
+    This immediately follows from the fact that $\mu(mn)=\mu(m)\mu(n)$ for $m$ and $n$ coprime.
+  -/)]
+lemma moebius_sq_LSeries.term_IsMultiplicative (s : ℂ) {m n : ℕ} (mCn : m.Coprime n) :
+    LSeries.term (fun n ↦ (μ n) ^ 2) s (m * n) =
+  LSeries.term (fun n ↦ (μ n) ^ 2) s m * LSeries.term (fun n ↦ (μ n) ^ 2) s n := by
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:1084]: Package as `IsMultiplicative`

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 13]
```diff
@@ -734,12 +917,167 @@ where omega is the number of distinct prime factors. -/
...
+  (statement := /--
+    For $p$ prime, we have that
+    $$\sum_{0\leq k}\mu^2(p^k)p^{-ks}=1+p^{-s}.$$
+  -/)
+  (proof := /--
+    Note that $\mu^2(p^0)=1$ and $\mu^2(p^1)=1$ but $\mu^2(p^k)=0$ whenever $1<k$. Thus,
+    $$\sum_{0\leq k}\mu^2(p^k)p^{-ks}=1+p^{-s}.$$
+  -/)]
+lemma moebius_sq_tsum_prime_pow {s : ℂ} (p : Nat.Primes) :
+    ∑' e, LSeries.term (fun n ↦ (μ n) ^ 2) s (p ^ e) = (1 + (p : ℂ) ^ (-s)) := by
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Use prime power sum API

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 14]
```diff
@@ -734,12 +917,167 @@ where omega is the number of distinct prime factors. -/
...
+    ∧ (∀ {m n : ℕ}, m.Coprime n → LSeries.term (fun n ↦ (μ n) ^ 2) s (m * n) =
+      LSeries.term (fun n ↦ (μ n) ^ 2) s m *
+      LSeries.term (fun n ↦ (μ n) ^ 2) s n)
+    ∧ LSeries.term (fun n ↦ (μ n) ^ 2) s 1 = 1 := by
+    refine ⟨LSeriesSummable_moebius_sq hs, ?_, ?_⟩;
+    · intro m n mCn; exact moebius_sq_LSeries.term_IsMultiplicative s mCn
+    · simp only [ne_eq, one_ne_zero, not_false_eq_true, LSeries.term_of_ne_zero, isUnit_iff_eq_one,
+        IsUnit.squarefree, moebius_apply_of_squarefree, Int.reduceNeg, cardFactors_one, pow_zero,
+        Int.cast_one, one_pow, cast_one, Complex.one_cpow, div_self]
+  have := @EulerProduct.eulerProduct_hasProd;
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Same packaging/unpackaging

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 1 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: it seems so, i will remove import Mathlib.NumberTheory.EulerProduct.DirichletLSeries

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 2 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: i have made the change

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 3 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: i have made the change

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 4 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: i have made the change

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 7 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:926]: i have made the changes.

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 8 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: fixed

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 14 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: fixed

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 11 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: done.

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 10 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: done

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 5 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: We need LSeries.term (fun n to 2^omega n) s n to be defined as an arithmetic function to do this

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 12 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:1084]: We need LSeries.term (fun n to (mu n) ^ 2) s n to be defined as an arithmetic function to do this

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 9 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: done

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 5 above)
Comment (AlexKontorovich) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: so why not phrase this in terms of `(fun n to 2^omega n)` as an `ArithmeticFunction`, and then quote it when you apply it to `LSeries.term`? Does that work?

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 12 above)
Comment (AlexKontorovich) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:1084]: same question as above

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 6 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: i have added it

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 13 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: i have added this

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 5 above)
Comment (AlexKontorovich) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: I think there should be general API that says that if the coefficients are multiplicative (as an `ArithmeticFunction`), then so is the `LSeries.term` (since it multiplies by $n^{-s}$). Then we should quote that API for this particular instance.

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 12 above)
Comment (AlexKontorovich) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:1084]: same

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 5 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: i have added this API as LSeries.term_isMultiplicative_if_fun_isMultiplicative

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 12 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean:1084]: i have added this API as LSeries.term_isMultiplicative_if_fun_isMultiplicative

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 15]
```diff
@@ -720,10 +721,245 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+lemma two_pow_omega_LSeries.term_isMultiplicative (s : ℂ) {m n : ℕ} (mCn : m.Coprime n) :
+    LSeries.term (fun n ↦ 2 ^ (ω n)) s (m * n) =
+  LSeries.term (fun n ↦ 2 ^ (ω n)) s m * LSeries.term (fun n ↦ 2 ^ (ω n)) s n := by
+  refine LSeries.term_isMultiplicative_if_fun_isMultiplicative ?_ s mCn
+  simp only [IsMultiplicative, toArithmeticFunction, coe_mk, one_ne_zero, ↓reduceIte,
+    cardDistinctFactors_one, pow_zero, _root_.mul_eq_zero, mul_ite, mul_zero, ite_mul, zero_mul,
+    true_and]
+  intro m n mCn
+  by_cases m_eq_zero : m = 0 <;> simp only [m_eq_zero, true_or, ↓reduceIte, ite_self]
+  by_cases n_eq_zero : n = 0 <;> simp only [n_eq_zero, or_true, ↓reduceIte]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Something is still not right because there's a case split here. I think we're missing one last API lemma, namely, that `(toArithmeticFunction (fun n ↦ 2 ^ (ω n))).IsMultiplicative`. Then this lemma is a two line combination of that and `term_isMultiplicative_if_fun_isMultiplicative`

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 16]
```diff
@@ -720,10 +721,245 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+@[blueprint
+  "LSeries.term_isMultiplicative_if_fun_isMultiplicative"
+  (title := "LSeries.term-isMultiplicative-if-fun-isMultiplicative")
+  (statement := /--
+    If $f$ is a multiplicative function, then so to is $n\mapsto f(n)/n^s$.
+  -/)
+  (proof := /--
+    Note that $f(mn)/(mn)^s=f(m)f(n)/(m^sn^s)=(f(m)/n^s)(f(n)/n^s)$.
+  -/)]
+lemma LSeries.term_isMultiplicative_if_fun_isMultiplicative {f : ℕ → ℂ} (hf : ArithmeticFunction.IsMultiplicative (toArithmeticFunction f)) (s : ℂ) {m n : ℕ} (mCn : m.Coprime n) :
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]:
```suggestion
lemma LSeries.term_isMultiplicative_if_fun_isMultiplicative {f : ℕ → ℂ} (hf : (toArithmeticFunction f).IsMultiplicative) (s : ℂ) {m n : ℕ} (mCn : m.Coprime n) :
```

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 17]
```diff
@@ -734,12 +970,169 @@ where omega is the number of distinct prime factors. -/
...
+    LSeries.term (fun n ↦ (μ n) ^ 2) s (m * n) =
+  LSeries.term (fun n ↦ (μ n) ^ 2) s m * LSeries.term (fun n ↦ (μ n) ^ 2) s n := by
+  refine LSeries.term_isMultiplicative_if_fun_isMultiplicative ?_ s mCn
+  simp only [IsMultiplicative, toArithmeticFunction, coe_mk, one_ne_zero, ↓reduceIte,
+    isUnit_iff_eq_one, IsUnit.squarefree, moebius_apply_of_squarefree, Int.reduceNeg,
+    cardFactors_one, pow_zero, Int.cast_one, one_pow, _root_.mul_eq_zero, mul_ite, mul_zero,
+    ite_mul, zero_mul, true_and]
+  intro m n mCn
+  by_cases m_eq_zero : m = 0 <;> simp only [m_eq_zero, true_or, ↓reduceIte, ite_self]
+  by_cases n_eq_zero : n = 0 <;> simp only [n_eq_zero, or_true, ↓reduceIte]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Same here. Instead of unfolding definitions, we should be calling API. Here I think it should be even easier: we should prove that if `f` `IsMultiplicative` and `(k : ℕ)`, then `(fun n ↦ (f n) ^ k)` is as well. Then combine that with multiplicativity of Mobius. The general theme is: make API so that in actual applications, you should never need to unfold down to the definitions (like `intro` and case split, etc).

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 16 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: ive made this change

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 15 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: ive added this API

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean (hunk 17 above)
Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: ive added this API

File: PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean [hunk 18]
```diff
@@ -720,10 +721,256 @@ lemma zeta_pow_three_eq_alt (s : ℂ) (hs : 1 < s.re) :
...
+    The fact that $\omega(mn)=\omega(m)+\omega(n)$ implies $2^{\omega(mn)}=2^{\omega(m)+\omega(n)}=2^{\omega(m)}2^{\omega(n)}$.
+  -/)]
+lemma two_pow_omega_isMultiplicative :
+    (toArithmeticFunction (fun n ↦ (2 : ℂ) ^ ω n)).IsMultiplicative := by
+  simp only [IsMultiplicative, toArithmeticFunction, coe_mk, one_ne_zero, ↓reduceIte,
+    cardDistinctFactors_one, pow_zero, _root_.mul_eq_zero, mul_ite, mul_zero, ite_mul, zero_mul,
+    true_and]
+  intro m n mCn
+  by_cases m_eq_zero : m = 0 <;> simp only [m_eq_zero, true_or, ↓reduceIte, ite_self]
+  by_cases n_eq_zero : n = 0 <;> simp only [n_eq_zero, or_true, ↓reduceIte]
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: Now I think we're missing the API that: if `f` is *additive* and $k > 0$, then `n -> (k : C)^(f(n))` is multiplicative (can we relax $k > 0$? What is needed about $z : C$ so that $z^{a+b}=z^az^b$?)

Comment (prestontranbarger) [reply PrimeNumberTheoremAnd/IwaniecKowalskiCh1.lean]: I've added some API that mirrors powOfMultiplicative_isMultiplicative

**Review by AlexKontorovich — APPROVED** [review]
Looks good, thanks for the hard work on this!

**Comment by AlexKontorovich** [comment]
I want to wait for the 4.30.0 bump to finish, then merge this...
